* Test OpAmp - Verifica Base con Dual Supply

* Alimentazione
V1 10 0 DC 15
V2 11 0 DC -15

* OpAmp gain = 10
O1 3 1 2 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

R2 2 0 10k
R3 3 2 90k         * Gain = 1 + 90k/10k = 10

.input 1
.output 3

.probe test0.csv V(1) V(2) V(3) V(10) V(11)
*V(3) = 10 x input